US06599942B1
A solution of the title E compound, 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)benzenesulfonyl chloride (1.12 g, 2.5 mmol) in 20 mL of CH2Cl2 is treated sequentially with N-methylmorpholine (NMM; 550 mL, 5 mmol) and neopentylamine (442 mL, 3.75 mmol) at RT. After 6 h, the mixture is partitioned between water and EtOAc, and the organic solution is washed with aqueous 1N HCl and brine, dried over anhydrous Na2SO4 and concentrated to afford 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)-N-(2,2-dimethylpropyl)benzenesulfonamide: NMR (CDCl3) 0.78 (s, 9H), 2.22 (s, 6H), 2.58 (d, 2H, J=7.5), 4.82 (t, 1H, J=7.5), 5.18 (s, 2H), 6.88 (dd, 1H, J=9, 3.7), 7.03, (d, 1H, J=9), 7.33-7.51 (m, 6H), 8.04 (s, 2H).

reactant | 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)benzenesulfonyl chloride | 2.5 mmol, 1.12 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)S(=O)(=O)Cl | C21H18ClNO6S
reactant | N-methylmorpholine | 5 mmol, 550 mL | CN1CCOCC1 | C5H11NO
reactant | neopentylamine | 3.75 mmol, 442 mL | C(C(C)(C)C)N | C5H13N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyloxy-5-(2,6-dimethyl-4-nitrophenoxy)-N-(2,2-dimethylpropyl)benzenesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)S(=O)(=O)NCC(C)(C)C | C26H30N2O6S
